US04003908
By replacing 4-chloro-6-(1-ethyl)hydrazino-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester in Example 1 c with 6-(1-butyl)hydrazino- 4-chloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester, 5-amino-6-butylamino-4-chloro-2-methylpyridine-3-carboxylic acid, ethyl ester is obtained. Yield 72%, b.p. 200°-210° /0.01.

reactant | 4-chloro-6-(1-ethyl)hydrazino-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | ClC1=C(C(=NC(=C1[N+](=O)[O-])NNCC)C)C(=O)OCC | C11H15ClN4O4
reactant | 6-(1-butyl)hydrazino- 4-chloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=C(C1Cl)[N+](=O)[O-])NNCCCC)C | C13H19ClN4O4
product | 5-amino-6-butylamino-4-chloro-2-methylpyridine-3-carboxylic acid, ethyl ester | Yield 72% | NC=1C(=C(C(=NC1NCCCC)C)C(=O)OCC)Cl | C13H20ClN3O2
